US07550478B2
Step 8: 3-chloro-6-fluoro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl trifluoromethanesulfonate
To a stirred solution of 3-chloro-6-fluoro-7-hydroxy-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (1.0 g, 3.6 mmol) and cesium carbonate (1.3 g, 4.0 mmol) in DMF (20 mL) was added N-phenyltrifluoromethanesulfonimide (1.4 g, 4.0 mmol) at 0° C. The reaction mixture was left to stir at 0° C. for 20 min, treated with aqueous NaHCO3 solution, diluted with CH2Cl2, and washed with water (×3). The organic layer was washed with brine, dried (Na2SO4), concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 8.83 (d, 1H); 8.26 (d, 1H); 7.59 (dd, 1H); 7.45 (d, 1H); 7.36 (d, 1H); 7.23 (d, 1H). LRMS (ESI) calc'd for (C15H6ClF4NO4S) [M+H]+, 408.0; found 407.9.

reactant | 3-chloro-6-fluoro-7-hydroxy-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 3.6 mmol, 1.0 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C(=C(C=C1)O)F | C14H7ClFNO2
reactant | cesium carbonate | 4.0 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-phenyltrifluoromethanesulfonimide | 4.0 mmol, 1.4 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-chloro-6-fluoro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=CC2=C(C(C=3C(=NC=C(C3)Cl)C=C2)=O)C1F)(F)F | C15H6ClF4NO4S
